* C:\Users\Hemant Kothari\Downloads\Draft1.asc
R1 N003 0 1.16
C1 N003 0 22µ
D1 0 N002 1N5819
L1 N002 N003 30.9µ
M1 N001 N004 N002 N002 IPF050N03L
V1 N001 0 24
V2 N004 N002 PULSE(0 12 0 1e-9 1e-9 4.16e-6 20e-6)
.model D D
.lib C:\Users\Hemant Kothari\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Hemant Kothari\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5m 0 1u
.backanno
.end
